US07153854B2
To a suspension of LiAlH4 (113 mg) in THF (10 mL) was added ethyl[4-(5-bromo-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate (600 mg) under ice-water cooling and the mixture was stirred at 0° C. for 2 hours. To the mixture was added potassium sodium tartrate solution and the insolubles were filterred off. After evaporation of solvent, the residue was partitioned between AcOEt and water. The organic layer was separated, washed with brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and AcOEt (5:1-1:1) to give 2-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]ethanol as yellow oil (246 mg).

reactant | LiAlH4 | 113 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl[4-(5-bromo-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate | 600 mg | C(C)OC(CC1=C(C=2N(N=C1C)C(=CC2)CC)C=2C=NC=C(C2)Br)=O | C19H20BrN3O2
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]ethanol | 246 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCO)C)C(=CC2)CC | C17H18BrN3O
